US08703805B2
To a solution of methyl 2-(3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)acetate (140 mg, 0.34 mmol) in MeOH (5 mL), was added lithium hydroxide monohydrate (60 mg, 1.42 mmol). The resulting mixture was stirred at ambient temperature for 18 hours. The reaction mixture was then concentrated under reduced pressure and the residue was taken up in CH2Cl2 and H2O. The aqueous was made acidic by the addition of 1 N HCl. The layers were separated and the acidic aqueous was further extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. This white solid was taken up in warm CH2Cl2 and hexane and the resulting solution was cooled in an ice bath. Filtration, washing with hexane and drying of the precipitated solids afforded 2-(3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)acetic acid (69 mg, 51% yield) as a white solid. MS(ES): 397 [M+H]+.

reactant | methyl 2-(3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)acetate | 0.34 mmol, 140 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(OCC(=O)OC)C=CC1)C(F)(F)F | C19H14ClF3N2O3
reactant | lithium hydroxide monohydrate | 1.42 mmol, 60 mg | O.[OH-].[Li+]
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)acetic acid | 69 mg, 51% yield | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(OCC(=O)O)C=CC1)C(F)(F)F | C18H12ClF3N2O3
